US07807709B2
(3S*,4S*)-4-({Isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-3-carboxylic acid benzylamide
To a solution of (3S*,4R*)-3-benzylcarbamoyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (61 mg, 0.098 mmol) in 2 mL CH2Cl2, TFA (113 μL, 1.46 mmol) is added. The mixture is stirred at 30° C. for 2 h, then overnight at RT, and poured into a saturated solution of NaHCO3. The layers are separated, and the aqueous one is back-extracted twice with CH2Cl2. The combined organic extracts are dried over Na2SO4, filtered and concentrated. The crude material is purified by flash chromatography on an NH2 Isolute SPE Flash column (eluent: CH2Cl2:MeOH 100:0 to 95:5) to give the title product. TLC, Rf (CH2Cl2/MeOH 9:1)=0.2. MS (LC-MS): 498 [M+H]+; tR (HPLC, Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 4.38 min.

reactant | (3S*,4R*)-3-benzylcarbamoyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.098 mmol, 61 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)C(NCC1=CC=CC=C1)=O | C33H47N3O7
reactant | TFA | 1.46 mmol, 113 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (3S*,4S*)-4-({Isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-3-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)[C@@H]1CNC[C@H]1CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C | C28H39N3O5
